US05494887
16. Preparation of N-(2,6-dichlorophenyl)-5-methoxypyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide
A mixture of 2.0 g (6.7 mmol) of 2-chlorosulfonyl-5-methoxypyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine, 2.2 g (13.3 mmol) of 2,6-dichloroaniline, 0.50 g (67 mmol) of pyridine, and 30 mL of dry acetonitrile was prepared and to this was added with stirring at ambient temperature 95 microliters (1.3mmol) of dimethyl sulfoxide. The mixture was allowed to react overnight and was then concentrated by evaporation under reduced pressure. The residue was diluted with dichloromethane and water and the resulting mixture was filtered to remove the insoluble solids. The organic phase was recovered and the dichloromethane was removed by evaporation under reduced pressure. The residue was diluted with hexane, recovered by filtration, and redissolved in dichloromethane. The resulting solution was filtered through silica gel and concentrated by evaporation under reduced pressure. The residue was diluted with hexane, recovered by filtration, and dried to obtain 0.25 g of the title compound as a light tan powder melting at 290°-293° C. with decomposition. The proton NMR spectrum of this was compatible with the assigned structure.

reactant | 2-chlorosulfonyl-5-methoxypyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine | 6.7 mmol, 2.0 g | ClS(=O)(=O)C1=NN2C(=NC3=C(C2=N1)C=CC=N3)OC | C9H6ClN5O3S
reactant | 2,6-dichloroaniline | 13.3 mmol, 2.2 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | pyridine | 67 mmol, 0.50 g | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 1.3mmol, 95 microliters | CS(=O)C | C2H6OS
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-(2,6-dichlorophenyl)-5-methoxypyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide | 0.25 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(=NC3=C(C2=N1)C=CC=N3)OC | C15H10Cl2N6O3S
